US06022892
Under nitrogen atmosphere, a solution of di-tert-butyl dicarbonate (123.6 g) in anhydrous tetrahydrofuran (600 ml) was slowly added over a period of about 3 hours to a cooled (0-5° C.) and stirred solution of 1,6-diamino hexane (200 g) in THF (600 ml). After 3 hours at 10° C. and about 16 hours at room temperature, the solvent was almost completely removed under vacuum. The residual concentrated solution (about 300 ml) was dissolved in tert-butyl methyl ether (460 ml) and washed with 2N sodium hydroxide (300 ml). The aqueous layer was further extracted with tert-butyl methyl ether (2×300 ml). The combined organic extracts were dried over sodium sulfate (50 g) and then concentrated to a little volume and distilled under reduced pressure (0.8 torr, 122-124° C.) to give N-tert-butyloxycarbonyl-1,6-diaminohexane (72 g). The distillation heads contain the excess of hexane diamine which can be recovered for another reaction.

reactant | di-tert-butyl dicarbonate | 123.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,6-diamino hexane | 200 g | NCCCCCCN | C6H16N2
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | N-tert-butyloxycarbonyl-1,6-diaminohexane | 72 g | C(C)(C)(C)OC(=O)NCCCCCCN | C11H24N2O2
